US04775223
35 g (0.17M) of 4-octylaniline was cooled to 0° C. or below, 85 g of10% aqueous hydrochloric acid solution was added, and then a solution of 12.0 g of sodium nitrite in 68 ml of water was added. During the addition,the mixture was cooled so as not to exceed 0° C. After the addition,the mixture was allowed to react for 30 minutes, transferred into a dropping funnel and added dropwise into 170 g of an 8% NaOH aqueous solution containing 16 g of phenol held at 5° C. or below. After the addition, the mixture was stirred for 1 hour, and then 10% hydrochloric acid aqueous solution was added thereto until a pH of 5-6 toprecipitate the reaction product. The precipitate was separated by filtration, washed with water and dried overnight under reduced pressure. After the drying, the product was washed with 500 ml of petroleum ether and further dried under reduced pressure to obtain 30.8 g (0.10M) of 4-hydroxy-4'-octylazobenzene. The yield was 59%.

reactant | 4-octylaniline | 0.17M, 35 g | C(CCCCCCC)C1=CC=C(N)C=C1 | C14H23N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | 12.0 g | N(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
reactant | phenol | 16 g | C1(=CC=CC=C1)O | C6H6O
solvent | water | 68 ml | O | H2O
product | 4-hydroxy-4'-octylazobenzene | 0.10M, 30.8 g, yield was 59% | OC1=CC=C(C=C1)N=NC1=CC=C(C=C1)CCCCCCCC | C20H26N2O
